US07230129B2
Step-1 Preparation of 2-[4-phenyl-methoxyphenoxy]-2-methyl butyric acid To the 4-benzyloxyphenol (40 grams, 0.2 mol) add toluene (400 mL) and sodium hydroxide (powdered) (64 grams, 1.6 mol) at 25–30° C., stirred for 30 minutes and then add 2-butanone (180 mL, 2 mol) for 20 minutes drop wise. Added triethylbenzyl ammoniumchloride (4 grams) in one portion and the mixture was stirred for 10 minutes. Chloroform (66 mL, 0.8 mol) was added at 25–30° C. very slowly for 30 to 45 minutes by controlling the reaction mixture temperature by cooling intermittently with ice bath, to maintain the temperature below 45° C. Then the reaction mixture was stirred at 25–30° C. for 13 to 14 hours. The mixture was poured in to water (500 mL) and separated the organic and aqueous layers. The aqueous layer was washed with toluene thrice to remove impurities formed in the reaction. The aqueous layer was acidified (pH to 2) and extracted with ethyl acetate. The organic layer was washed with water, brine and dried over sodiumsulphate, and evaporated to get a solid, which was titrated with n-hexane to get a reasonably pure 2-[4-phenyl-methoxyphenoxy]-2-methyl butyric acid as a pale yellow solid. (18.8 grams, 32%); Melting Point: 50–55° C. 1H NMR (CDCl3, 400 MHz): δ 7.43–7.30 (m, 5H), 6.92 (d, J=9.13 Hz, 2H), 6.88 (d, J=9.13 Hz, 2H 5.02 (s, 2H), 2.00–1.83 (m, 2H), 1.42 (s, 3H), 1.05 (t, J=7.53 Hz, 3H). Mass (m/z): 301 (M+1). Step-2: Preparation of (−)-2-[4-phenyl-methoxyphenoxy]-2-methyl butyric acid 2-[4-Phenyl-methoxyphenoxy]-2-methyl butyric acid (18.8 grams, 62.67 mmol), obtained in step (i), was converted to its S(+)phenylglycenol salt by stirring with the S(+)phenylglycenol (7.7 grams, 56.4 mmol) in ethyl acetate (100 mL) at 25–30° C. for 5 hours to get a suspension of white solid, which was filtered and dried under vacuum to get a salt. This salt of racemic acid was recrystallised in ethyl acetate for 3 to 4 times to get a chirally pure (−)enantiomeric salt of 2-[4-phenyl-methoxyphenoxy]-2-methyl butyric acid. The resultant salt was released by treating it with 25% sulphuric acid and extracting it in to ethyl acetate. The ethyl acetate layer was washed with water and dried over sodiumsulphate to give (−)-2-[4-phenyl-methoxyphenoxy]-2-methyl butyric acid as a pure white solid. (5.2 grams, 43%). Melting Point: 80–82° C. 1H NMR (CDCl3, 400 MHz): δ 7.42–7.30 (m, 5H), 6.91 (d, J=9.13 Hz, 2H), 6.88 (d, J=9.13 Hz, 2H), 5.02 (s, 2H), 2.03–1.82 (m, 2H), 1.42 (s, 3H), 1.05 (t, J=7.52 Hz, 3H).

reactant | (−)-2-[4-phenyl-methoxyphenoxy]-2-methyl butyric acid 2-[4-Phenyl-methoxyphenoxy]-2-methyl butyric acid | 62.67 mmol, 18.8 grams | C1(=CC=CC=C1)C1=CC(=C(OC(C(=O)O)(CC)C)C=C1)OC.C1(=CC=CC=C1)C1=CC(=C(OC(C(=O)O)(CC)C)C=C1)OC | 2C18H20O4
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2-[4-phenyl-methoxyphenoxy]-2-methyl butyric acid | C1(=CC=CC=C1)C1=CC(=C(OC(C(=O)O)(CC)C)C=C1)OC | C18H20O4
